US04626540
2-Chloro-5-nitro-6-[[4-(phenylmethoxy)phenyl]amino]benzoic acid
A mixture of 50.0 g of 2,6-dichloro-3-nitrobenzoic acid, 85.7 g of 4-benzyloxyaniline, and 115 ml of N,N-dimethylaniline was heated on a steam bath for 24 hours. The cooled mixture was triturated with 600 ml of chloroform and filtered. The precipitate was stirred in a mixture of 350 ml of chloroform and 350 ml of 1N aq NaOH. The red sodium salt was collected and stirred with a mixture of 300 ml of 1N hydrochloric acid and 1.5 l of chloroform. The chloroform layer was concentrated to provide the title compound as red crystals, mp 172°-174° C.

reactant | 2,6-dichloro-3-nitrobenzoic acid | 50.0 g | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | 4-benzyloxyaniline | 85.7 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | N,N-dimethylaniline | 115 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 2-Chloro-5-nitro-6-[[4-(phenylmethoxy)phenyl]amino]benzoic acid | ClC1=C(C(=O)O)C(=C(C=C1)[N+](=O)[O-])NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H15ClN2O5
